US08383644B2
Step 6. Preparation of (S)-3-[4-(3,4-dichloro-benzyloxy)-phenyl]-1,2,3,5,7,8-hexahydro-4-oxa-1,6-diaza-anthracene-6,7-dicarboxylic acid 6-tert-butyl ester
(S)-3-[4-(3,4-Dichloro-benzyloxy)-phenyl]-1,2,3,5,7,8-hexahydro-4-oxa-1,6-diaza-anthracene-6,7-dicarboxylic acid 6-tert-butyl ester 7-methyl ester (598 mg) was dissolved in THF/methanol (4:1). 2 N Lithium hydroxide (1 mL) was added, and the resulting reaction mixture was stirred at room temperature for 4 hours. Excess 1N HCl was added and the mixture extracted with ethyl acetate. The organic layer was washed with brine, dried over sodium sulfate, and the solvent was removed under reduced pressure to give the product in substantially pure form (0.56 g).

reactant | (S)-3-[4-(3,4-Dichloro-benzyloxy)-phenyl]-1,2,3,5,7,8-hexahydro-4-oxa-1,6-diaza-anthracene-6,7-dicarboxylic acid 6-tert-butyl ester 7-methyl ester | 598 mg | COC(=O)C1N(CC=2C=C3O[C@H](CNC3=CC2C1)C1=CC=C(C=C1)OCC1=CC(=C(C=C1)Cl)Cl)C(=O)OC(C)(C)C | C31H32Cl2N2O6
reactant | Lithium hydroxide | 2 N, 1 mL | [OH-].[Li+]
reactant | HCl | 1N | Cl | ClH
solvent | THF methanol | C1CCOC1.CO
product | (S)-3-[4-(3,4-dichloro-benzyloxy)-phenyl]-1,2,3,5,7,8-hexahydro-4-oxa-1,6-diaza-anthracene-6,7-dicarboxylic acid 6-tert-butyl ester | C(C)(C)(C)OC(=O)N1CC=2C=C3O[C@H](CNC3=CC2CC1C(=O)O)C1=CC=C(C=C1)OCC1=CC(=C(C=C1)Cl)Cl | C30H30Cl2N2O6
